US05399703
Step 8 2-[3-[1-(1H-Tetrazol-5-yl)ethoxy]phenoxy]aniline
In 30 ml of ethanol was dissolved 5-[1-[3-(2-nitrophenoxy)phenoxy]ethyl]-1H-tetrazole and catalytic hydrogenation was carried out in the presence of 0.3 g of palladium-carbon at atmospheric temperature and pressure. After the reaction, the catalyst was filtered off and the filtrate was concentrated to give 2.1 g of the title compound as a brown oil.

reactant | 5-[1-[3-(2-nitrophenoxy)phenoxy]ethyl]-1H-tetrazole | [N+](=O)([O-])C1=C(OC=2C=C(OC(C)C3=NN=NN3)C=CC2)C=CC=C1 | C15H13N5O4
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.3 g | [C].[Pd]
product | 2-[3-[1-(1H-Tetrazol-5-yl)ethoxy]phenoxy]aniline | 2.1 g | N1N=NN=C1C(C)OC=1C=C(OC2=C(N)C=CC=C2)C=CC1 | C15H15N5O2
